US04731370
In 33 ml of anhydrous tetrahydrofuran was dissolved 6.5 g of ethyl (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylacrylate, and to the resulting solution was added 0.66 g of lithium aluminum hydride in small portions at room temperature. Further, the resulting mixture was subjected to reaction at the same temperature for one hour, and thereafter, 30 ml of ethyl acetate and then 2.5 ml of water were added in small portions with water-cooling. The insolubles were removed by filtration, and thereafter, the organic layer was dried over anhydrous magnesium sulfate. Subsequently, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene:ethyl acetate (3:1 by volume)], to obtain 4.0 g (yield 72.3%) of colorless, oily (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl alcohol.

reactant | ethyl (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylacrylate | 6.5 g | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C(/C(=O)OCC)\C | C18H19NO2
reactant | lithium aluminum hydride | 0.66 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 2.5 ml | O | H2O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl alcohol | yield 72.3% | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C(/CO)\C | C16H17NO
